US05250678
To a stirred mixture of 17-ethyl-1,14-dihydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-2,3,-10,16-tetraone (250 mg, 0.32 mmol, 1 eq) and Cu(OAc)2 (15 mg, 0.08 mmol, 25 eq) in CH2Cl2 (5 ml) in a round bottom flask equipped with a magnetic stir-bar was added tri(1-naphthyl) bismuth diacetate [prepared immediately prior to use by addition of acetic acid (0.100 ml, 1.75 mmol, 5.46 eq) to a suspension of tri(1-naphthyl) bismuth carbonate (350 mg, 0.54 mmol, 1.69 eq) in CH2Cl2 (5 ml)]. The reaction flask was fitted with a reflux condenser and the mixture warmed to 40° C. for 5 hours then stirred at room temperature. After 16 hours the mixture was diluted with saturated aqueous NaHCO3 extracted 2 times with CH2Cl2. The extracts were combined, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The products were separated and purified by preparative TLC on silica gel (eluted with 3:1 hexanes/acetone) to yield 49 mg of 17-ethyl-1,14-dihydroxy-12-[2'-(3"-(naphth-1-yloxy)-4"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-aza-tricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone and 39 mg of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(naphth-1-yloxy)-3"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21, 27-tetramethyl-1,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone. (1H NMR analysis was consistent with the desired structure).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-2,3,-10,16-tetraone | 0.32 mmol, 250 mg, 1 eq | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)O)C)C)O)=O | C42H67NO12
reactant | tri(1-naphthyl) bismuth diacetate | C(C)(=O)O.C(C)(=O)O.C1(=CC=CC2=CC=CC=C12)[Bi](C1=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12
reactant | acetic acid | 1.75 mmol, 0.100 ml, 5.46 eq | C(C)(=O)O | C2H4O2
reactant | tri(1-naphthyl) bismuth carbonate | 0.54 mmol, 350 mg, 1.69 eq | C(O)(O)=O.C1(=CC=CC2=CC=CC=C12)[Bi](C1=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | Cu(OAc)2 | 0.08 mmol, 15 mg, 25 eq | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-ethyl-1,14-dihydroxy-12-[2'-(3"-(naphth-1-yloxy)-4"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-aza-tricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 49 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC2=CC=CC1=CC=CC=C21)C)C)O)=O | C52H73NO12
